US05155130
The starting material is prepared as follows: 5-Methoxy-2-hydroxybenzaldehyde (25 g, 0.16 mol) and potassium carbonate (22.7 g, 0.16 mol) are taken up in 300 ml of 1,4-dioxane and treated with acrolein (13.8 g, 0.25 mol). The mixture is heated at 100° C. for 1 hour, and allowed to cool. The mixture is diluted with water and extracted three times with ether. The combined ether extracts are dried (MgSO4) and evaporated. The residual oil is dissolved in a minimal amount of ethyl acetate (approx. 40 ml) and passed through 40 g of silica gel. The gel is successively washed with several portions of a hexane/ether mixture (3:1) until no further fluorescent material is eluted. The organic phase is evaporated and the residue is crystallized from ethyl acetate/hexane to give 6-methoxy-2H-1-benzopyran-3-carboxaldehyde as a yellow solid, m.p. 49°-50° C.

reactant | 5-Methoxy-2-hydroxybenzaldehyde | 0.16 mol, 25 g | COC=1C=CC(=C(C=O)C1)O | C8H8O3
reactant | potassium carbonate | 0.16 mol, 22.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | acrolein | 0.25 mol, 13.8 g | C(=O)C=C | C3H4O
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6-methoxy-2H-1-benzopyran-3-carboxaldehyde | COC=1C=CC2=C(C=C(CO2)C=O)C1 | C11H10O3
